US08455648B2
(1S,4S)-Tert-butyl 5-(4-(3-pyrazin-2-ylureido)quinolin-7-yl)-2,5-diaza bicyclo[2.2.1]-heptane-2-carboxylate
The compound was prepared by the method described for Example 1 using 1-(7-bromoquinolin-4-yl)-3-(pyrazin-2-yl)urea and (1S,4S)-tert-butyl 2,5-diazabicyclo[2.2.1]-heptane-2-carboxylate as starting compounds.

reactant | 1-(7-bromoquinolin-4-yl)-3-(pyrazin-2-yl)urea | BrC1=CC=C2C(=CC=NC2=C1)NC(=O)NC1=NC=CN=C1 | C14H10BrN5O
reactant | (1S,4S)-tert-butyl 2,5-diazabicyclo[2.2.1]-heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
product | (1S,4S)-Tert-butyl 5-(4-(3-pyrazin-2-ylureido)quinolin-7-yl)-2,5-diaza bicyclo[2.2.1]-heptane-2-carboxylate | N1=C(C=NC=C1)NC(NC1=CC=NC2=CC(=CC=C12)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C)=O | C24H27N7O3
